US04563474
26 ml (324 millimoles) of chloroacetone were slowly added dropwise to 40.0 g (200 millimoles) of sodium saccharin, while stirring (exothermic reaction). The temperature was gradually increased to 110° C., and the reaction mixture was stirred at this temperature for 5 hours, after which it was cooled. An excess of ice-water was added, and stirring was continued for a further hour. The precipitated solid was filtered off under suction, recrystallized from ethanol and dried in a drying oven under reduced pressure at 50° C. to give 35.2 g (74%) of N-acetonylsaccharin of melting point 142°-143° C.

reactant | chloroacetone | 324 millimoles, 26 ml | ClCC(C)=O | C3H5ClO
reactant | sodium saccharin | 200 millimoles, 40.0 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
product | N-acetonylsaccharin | 35.2 g, 74% | C(C(=O)C)N1S(=O)(=O)C2=CC=CC=C2C1=O | C10H9NO4S
